US07585885B2
(S)-2-sec-Butylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester
Add sodium hydride (47 mg, 1.18 mmol, 60% dispersion in mineral oil) to a solution of (S)-2-sec-butylamino-6-methanesulfonylamino-isonicotinic acid methyl ester (356 mg, 1.18 mmol) in DMF (5 mL) at 0° C. Stir for 10 min, add iodomethane (0.11 mL, 1.77 mmol) dropwise. Stir the mixture at room temperature for 2 h, cool and quench the reaction with an ammonium chloride solution. Extract the mixture with ethyl acetate (3×30 mL) and wash the combined extract with water, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 20:80 ethyl acetate:hexanes) to give the title compound (320 mg, 86%).

reactant | sodium hydride | 1.18 mmol, 47 mg | [H-].[Na+]
reactant | (S)-2-sec-butylamino-6-methanesulfonylamino-isonicotinic acid methyl ester | 1.18 mmol, 356 mg | COC(C1=CC(=NC(=C1)NS(=O)(=O)C)N[C@@H](C)CC)=O | C12H19N3O4S
reactant | iodomethane | 1.77 mmol, 0.11 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-2-sec-Butylamino-6-(methanesulfonyl-methylamino)-isonicotinic acid methyl ester | 320 mg, 86% | COC(C1=CC(=NC(=C1)N(C)S(=O)(=O)C)N[C@@H](C)CC)=O | C13H21N3O4S
